US04529732
N-(2-Propenyl)-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol
A solution of 6.8 ml (74.6 mmole) of propanethiol in 75 ml of tetrahydrofuran is degassed by three freeze-thaw cycles at 0.1 torr. The resultant solution is cooled to -78° C. and 28 ml of 2.5M n-butyllithium in hexane is added. The reaction is then allowed to warm to 25° C. and stirred 3 hours longer. The reaction is evaporated to dryness under high vacuum and the residue dissolved in 70 ml of degassed hexamethylphosphoramide. To a 25° C. degassed solution of 218 mg (0.486 mmole) of N-(2-propenyl)-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol in 1 ml of hexamethylphosphoramide is added 2.2 ml of the above prepared solution of lithium propanethiolate. The reaction is stirred 30 minutes at 25° C. and 1.5 hour at 105° C. followed by cooling to 25° C. The reaction is quenched by addition to 30 ml water and the mixture extracted with 150 ml ethyl ether. The ether extract is washed twice with 30 ml water, once with 30 ml saturated sodium chloride, dried over magnesium sulfate and evaporated to an oil. The crude product is purified via column chromatography on 48 g of silica gel eluting in 8 ml fractions with ethyl ether to give (fractions 12-24) 101 mg (58%) of the title compound as an oil.

reactant | propanethiol | 74.6 mmole, 6.8 ml | C(CC)S | C3H8S
reactant | n-butyllithium | 2.5M, 28 ml | C(CCC)[Li]
reactant | N-(2-propenyl)-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 0.486 mmole, 218 mg | C(C=C)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C30H43NO2
reactant | lithium propanethiolate | C(CC)[S-].[Li+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexamethylphosphoramide | 1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | N-(2-Propenyl)-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol | 101 mg, 58% | C(C=C)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)O | C23H37NO2
